US04303768
About 50 parts by weight of an aqueous sodium silicate solution containing about 14.7% Na2O and 29.4% SiO2 by weight, 2 parts by weight of para-aminobenzoic acid, 0.5 parts by weight of sodium lauryl sulphate, 0.05 parts by weight acetyl peroxide, 0.05 parts by weight of benzoyl peroxide and 30 parts by weight of vinylidene chloride are mixed thoroughly thereby forming a stable emulsion. The mixture is polymerized in 1 to 24 hours thereby producing a poly(sodium silicate-vinylidene chloride copolymer emulsion).

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | para-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium lauryl sulphate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | acetyl peroxide | C(C)(=O)OOC(C)=O | C4H6O4
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | vinylidene chloride | C(=C)(Cl)Cl | C2H2Cl2
product | sodium silicate vinylidene chloride | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].C(=C)(Cl)Cl | InChI=1S/C2H2Cl2.4Na.O4Si/c1-2(3)4;;;;;1-5(2,3)4/h1H2;;;;;/q;4*+1;-4
